US06962934B2
Preparation of N-(tert-butoxycarbonyl)-L-alanyl-L-valinamide
N-tert-Butoxyalanine (0.95 g, 5.0 mmol), EDC (1.0 g, 5.2 mmol), and HOBT (0.70 g, 5.2 mmol) are stirred in 10 mL of dry DMF under nitrogen for 1 h. N-Methylmorpholine (1.6 mL, 14.5 mmol) is added to L-valinamide hydrochloride (0.76 g, 5.0 mmol) in 7 mL of DMF, and the resulting suspension is agitated for 5-10 min and then added to the EDC mixture. The reaction mixture is stirred for 3 days. It is quenched with 1 N KHSO4 and extracted into ethyl acetate. The organic phase is washed successively with 1 N KHSO4, 1N NaHCO3, water, and brine, and dried with Na2SO4. Concentration and trituration with pentane affords the title compound as a white solid (1.07 g, 3.7 mmol, 74%). MS (CI) m/z 288 (MH+). HRMS (ESI) calcd for C13H25N3O4+H1 288.1923, found 288.1922.

reactant | N-tert-Butoxyalanine | 5.0 mmol, 0.95 g | C(C)(C)(C)ON[C@@H](C)C(=O)O | C7H15NO3
reactant | HOBT | 5.2 mmol, 0.70 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-Methylmorpholine | 14.5 mmol, 1.6 mL | CN1CCOCC1 | C5H11NO
reactant | L-valinamide hydrochloride | 5.0 mmol, 0.76 g | Cl.N[C@@H](C(C)C)C(=O)N
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EDC
solvent | EDC | 5.2 mmol, 1.0 g
product | N-(tert-butoxycarbonyl)-L-alanyl-L-valinamide | 3.7 mmol, 1.07 g, 74% | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N | C13H25N3O4
